US07947382B2
a) Synthesis of 2,7-dibromo-9,10-dihydroxy-9,10-dimethyl-9,10-dihydrophenanthrene
34.3 g (94 mmol) of 2,7-dibromophenanthrene-9,10-quinone were suspended in 600 ml of dry THF at −10° C. under argon, and 141 ml (282 mmol) of methylmagnesium chloride (2 molar solution in THF) were added dropwise at such a rate that the internal temperature did not exceed 0° C. The mixture was subsequently stirred overnight at room temperature. 50 ml of glacial acetic acid were added to the batch with ice cooling, and the mixture was diluted with ethyl acetate. After washing twice with saturated sodium chloride solution, the mixture was dried over sodium sulfate, and the solvents were removed, giving 43.4 g of the product, which was employed without further purification for the next step.

reactant | 2,7-dibromophenanthrene-9,10-quinone | 94 mmol, 34.3 g | BrC1=CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)=O)=O | C14H6Br2O2
reactant | methylmagnesium chloride | 282 mmol, 2 molar, 141 ml | C[Mg]Cl
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,7-dibromo-9,10-dihydroxy-9,10-dimethyl-9,10-dihydrophenanthrene | 43.4 g | BrC1=CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)(C)O)(C)O | C16H14Br2O2
